US06077861
2-Bromo-N-[2-chloro-4-[[2,3-dihydro-2-oxo-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-3-yl]methyl]-5-methoxyphenyl]acetamide (XIX70 : QN =Br)
3-[(4-Amino-5-chloro-2-methoxyphenyl)methyl]-5-[4-(trifluoromethyl) phenyl]-1,3,4-oxadiazol-2(3H)-one (3 g, 7.5 mmol) and pyridine (0.68 ml, 8.41 mmol) were dissolved in THF (35 ml) under N2 and cooled to 0° C. Bromoacetyl bromide (0.72 ml, 8.26 mmol) was added dropwise and the reaction mixture stirred for 18 h at 24° C. before being partitioned between ethyl acetate (400 ml) and 0.1N HCl solution (50 ml). The organic phase was washed with saturated NaHCO3 solution and brine, and dried over MgSO4. Active carbon (500 mg) was added and the solution filtered through a plug of Celite. Concentration gave 3.8 g (98%); mp 140-182° C. (dec); IR(KBr, υ=cm-1) 3348, 2972, 1784, 1672, 1594, 1234, 1168, 1066; 1H NMR (300 MHz, DMSO-d6) δ 3.77 (3H, s), 4.15 (2H, s), 4.90 (2H, s), 7.47-7.48 (2H, m), 7.86 (2H, d, J=8.4 Hz), 7.96 (1H, d, J=8.3 Hz), 9.30 (1H, s); MS(ESl)m/z: 520(MH+)

reactant | 3-[(4-Amino-5-chloro-2-methoxyphenyl)methyl]-5-[4-(trifluoromethyl) phenyl]-1,3,4-oxadiazol-2(3H)-one | 7.5 mmol, 3 g | NC1=CC(=C(C=C1Cl)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC | C17H13ClF3N3O3
reactant | pyridine | 8.41 mmol, 0.68 ml | N1=CC=CC=C1 | C5H5N
reactant | Bromoacetyl bromide | 8.26 mmol, 0.72 ml | BrCC(=O)Br | C2H2Br2O
reactant | KBr | [K+].[Br-]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 2-Bromo-N-[2-chloro-4-[[2,3-dihydro-2-oxo-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-3-yl]methyl]-5-methoxyphenyl]acetamide | BrCC(=O)NC1=C(C=C(C(=C1)OC)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)Cl | C19H14BrClF3N3O4
